US07115740B2
(S)-3-(2-Fluoro-4-methoxy-phenyl)-7-(4-fluoro-phenylamino)-1-(2-tert-butyl-diphenyl-silanyloxy-1-methyl-ethyl)-3,4-dihydro-1H-pyrimido[4,5-d]pyrimidin-2-one (0.33 g, 0.46 mmol) was dissolved in anhydrous tetrahydrofuran (3.5 mL) and treated with tetrabutylammonium fluoride (1.0 M in tetrahydrofuran, 1.90 mL, 1.90 mmol) (Aldrich). The reaction was stirred in a water bath that was maintained in the 25–35° C. range. The reaction was complete after 4 hours and was concentrated. The residue was redissolved in ethyl acetate and washed with water and brine. The organic phase was dried over anhydrous sodium sulfate and concentrated. Purification by flash chromatography (Biotage 40S, 75:25 ethyl acetate-hexanes) followed by crystallization from ethyl acetate-hexanes gave (S)-(+)-3-(2-fluoro-4-methoxy-phenyl)-7-(4-fluoro-phenylamino)-1-(2-hydroxy-1-methyl-ethyl)-3,4-dihydro-1H-pyrimido[4,5-d]pyrimidin-2-one as a white solid. (Yield 0.18 g, 83.5%). Melting Point: 173–177° C.

reactant | (S)-3-(2-Fluoro-4-methoxy-phenyl)-7-(4-fluoro-phenylamino)-1-(2-tert-butyl-diphenyl-silanyloxy-1-methyl-ethyl)-3,4-dihydro-1H-pyrimido[4,5-d]pyrimidin-2-one | 0.46 mmol, 0.33 g | FC1=C(C=CC(=C1)OC)N1C(N(C2=NC(=NC=C2C1)NC1=CC=C(C=C1)F)[C@@](C(C(C)(C)C)(C1=CC=CC=C1)C1=CC=CC=C1)(C)O[SiH3])=O | C38H39F2N5O3Si
reactant | tetrabutylammonium fluoride | 1.90 mmol, 1.0 M, 1.90 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | tetrahydrofuran | 3.5 mL | O1CCCC1 | C4H8O
product | (S)-(+)-3-(2-fluoro-4-methoxy-phenyl)-7-(4-fluoro-phenylamino)-1-(2-hydroxy-1-methyl-ethyl)-3,4-dihydro-1H-pyrimido[4,5-d]pyrimidin-2-one | FC1=C(C=CC(=C1)OC)N1C(N(C2=NC(=NC=C2C1)NC1=CC=C(C=C1)F)[C@H](CO)C)=O | C22H21F2N5O3
